US06342498B1
A. 1-(2-methoxyphenyl)-4-(5-(4-(6-fluoroindole-3-yl)-1,2,3,6-tetrahydropyridin-1-yl)valeryl)piperazine
Following the same procedure reported in the Step 2 of EXAMPLE 13, the reaction of 1-(2-methoxyphenyl)-4-(5-bromovaleryl)piperazine (9.29 mmol) with 6-fluoro-3-(1,2,3,6-tetrahydropyridin-4-yl)-1H-indole (3.54 mmol) and triethylamine (4.63 mmol) gave the alkylation product (1.21 g, 53%). mp: 78-81° C.

reactant | 1-(2-methoxyphenyl)-4-(5-bromovaleryl)piperazine | 9.29 mmol | COC1=C(C=CC=C1)N1CCN(CC1)C(CCCCBr)=O | C16H23BrN2O2
reactant | 6-fluoro-3-(1,2,3,6-tetrahydropyridin-4-yl)-1H-indole | 3.54 mmol | FC1=CC=C2C(=CNC2=C1)C=1CCNCC1 | C13H13FN2
reactant | triethylamine | 4.63 mmol | C(C)N(CC)CC | C6H15N
product | 1-(2-methoxyphenyl)-4-(5-(4-(6-fluoroindole-3-yl)-1,2,3,6-tetrahydropyridin-1-yl)valeryl)piperazine | 1.21 g, 53% | COC1=C(C=CC=C1)N1CCN(CC1)C(CCCCN1CCC(=CC1)C1=CNC2=CC(=CC=C12)F)=O | C29H35FN4O2
